* Z:\mnt\design.r\spice\examples\3725.asc
R1 N015 0 105K
R2 IN N009 1K
R3 IN N010 115K
R4 N010 0 15K
V1 IN 0 12
C1 N014 0 1µ
M§Q1 N003 N005 N007 N007 Si7370DP
R5 N007 0 10m
L1 N003 IN 20µ
L2 0 N001 200µ
D1 N001 N002 1N5817
D2 0 N002 1N5817
C2 OUT 0 20µ
L3 N002 OUT 25µ
C3 N016 0 .001µ
C4 N012 0 470p
C5 N008 N011 .002µ
C6 OUT N013 .01µ
R6 N008 0 2.49K
C7 OUT N008 .001µ
XU1 N010 N016 N009 N012 N015 0 N005 N014 0 N006 0 LTC3725
D3 N004 N014 MMSD4148
D4 IN N004 MMSD4148
R7 N007 N006 100
C8 N006 0 500p
R8 OUT N017 4.8K
Rload OUT 0 50
XU2 N013 N011 N012 0 NC_01 MOC205 Igain=2.44m
XU3 N011 NC_02 N017 NC_03 0 0 NC_04 N008 LT1431
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 1m startup
.lib LT1431.sub
.lib LTC3725.sub
.lib MOC205.sub
.backanno
.end
